US04501697
(B) (±)-(cis)-[(3-Azido-1-(4-methoxyphenyl)-2-oxo-4-azetidinyl)methoxy]acetic acid, methyl ester
A suspension of 60% sodium hydride (749 mg, 18.72 mmole) was washed under argon with hexane (9 ml). The sodium hydride was then cooled to -20° C. and dimethylformamide (20 ml) was added. The mixture was then cooled to -50° C. and methyl bromoacetate (1.77 ml, 18.72 mmole) was added via syringe. Next, a solution of (±)-(cis)-3-azido-4-hydroxymethyl-1-(4-methoxyphenyl)-2-oxoazetidine (3.303 g, 13.37 mmole) in dimethylformamide (25 ml) was added dropwise. The reaction was stirred at -50° C. for ten minutes, warmed to -20° C. over 40 minutes, stirred at this temperature for thirty minutes, and then stirred at -5° C. overnight (ca. sixteen hours). The solvent was mostly removed in vacuo (30° C.). The residue was treated with ether, then pH 4.5 monobasic potassium phosphate buffer. The aqueous layer was extracted with additional ether. The organic extracts were washed with cold 0.5 N hydrochloric acid, water, brine, dried (sodium sulfate), and filtered and concentrated to 4.2 g of an orange oil. The crude product was chromatographed on silica gel (180 g, 230-400 mesh) eluting with 60% hexane-ethyl acetate. Combination of fractions 35-46 (20 ml fractions), concentration and drying in vacuo produced 2.46 g of the title compond as an oil.

reactant | sodium hydride | 18.72 mmole, 749 mg | [H-].[Na+]
reactant | methyl bromoacetate | 18.72 mmole, 1.77 ml | BrCC(=O)OC | C3H5BrO2
reactant | (±)-(cis)-3-azido-4-hydroxymethyl-1-(4-methoxyphenyl)-2-oxoazetidine | 13.37 mmole, 3.303 g | N(=[N+]=[N-])[C@@H]1C(N([C@@H]1CO)C1=CC=C(C=C1)OC)=O | C11H12N4O3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (±)-(cis)-[(3-Azido-1-(4-methoxyphenyl)-2-oxo-4-azetidinyl)methoxy]acetic acid, methyl ester | N(=[N+]=[N-])[C@@H]1C(N([C@@H]1COCC(=O)OC)C1=CC=C(C=C1)OC)=O | C14H16N4O5
